US08703951B2
To a mixture of 0.1 NH2SO4 (150 mL) and 37% formaldehyde (80 mL) was added portionwise L-tryptophane (50 g, 245 mmol) with stirring. After being stirred for 4 h at room temperature, the white solid separated out was collected by filtration. The solid cake was washed with water and dried to give 1,2,3,4-tetrahydro-pyrido[3,4-b]indole-3-carboxylic acid, 41 g, (78%); mp 275-276° C. (lit.18 mp 280-282° C.). 1H NMR (DMSO-d6) δ 2.84 (1H, m, CH2), 3.16 (1H, m, CH2), 3.66 (1H, m, CH2), 4.23 (1H, m, CH2), 4.38 (1H, m, CH), 6.98-7.02 (1H, m, ArH), 7.13-7.16 (1H, m, ArH), 7.32-7.34 (1H, m, ArH), 7.45-7.48 (1H, m, ArH), 11.03 (1H, brs, exchangeable, NH).

reactant | L-tryptophane | 245 mmol, 50 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | formaldehyde | 80 mL | C=O | CH2O
product | 1,2,3,4-tetrahydro-pyrido[3,4-b]indole-3-carboxylic acid | C1NC(CC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
